US06352839B1
14 g of (S)-N-tert-butoxycarbonyltyrosine, dissolved in 140 ml of DMF, are placed in a three-necked flask under a nitrogen atmosphere. 4.8 g of 50% sodium hydride in oil are added slowly using a spatula. 16.87 g of 1-tosyl-2-chloroethanol are added after the mixture has been stirred for 2 h at room temperature. 2.4 g of 50% sodium hydride in oil, and a further 8.4 ml of 1-tosyl-2-chloroethanol, are added after the mixture has been stirred for 2 days. The same procedure is carried out after 24 h and the stirring is continued for a further 24 h. The reaction is stopped by adding 100 ml of distilled water, and the reaction mixture is concentrated to dryness under reduced pressure. The residue which is obtained is taken up in 100 ml of distilled water and then extracted with 3 times 100 ml of ethyl acetate. The aqueous phase is separated off after settling and acidified to pH3 with 50 ml of 1N HCl, and the product is extracted with 3 times 100 ml of ethyl acetate. The organic phases are combined, washed with 2 times 50 ml of water, separated off, dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure in order to yield 13.51 g of (S)-N-tert-butoxycarbonyl-4-O-(2-chloroethyl)tyrosine in the form of a chestnut oil (Rf=0.5, toluene 70%/methanol 20%/diethylamine 10%), which is used as such in the following step.

reactant | (S)-N-tert-butoxycarbonyltyrosine | 14 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | 1-tosyl-2-chloroethanol | 16.87 g | S(=O)(=O)(C1=CC=C(C)C=C1)C(CCl)O | C9H11ClO3S
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 1-tosyl-2-chloroethanol | 8.4 ml | S(=O)(=O)(C1=CC=C(C)C=C1)C(CCl)O | C9H11ClO3S
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | (S)-N-tert-butoxycarbonyl-4-O-(2-chloroethyl)tyrosine | 13.51 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCCCl)C(=O)O | C16H22ClNO5
